US07718683B2
General Procedure H Exemplified for N-[2-(5-Amino-4-isopropyl-4H-[1,2,4]triazol-3-yl)-4-chloro-phenyl]-4-tert-butyl-benzenesulfonamide
Cyanogen bromide (111 mg, 1.05 mmol) was added to a solution of 4-tert-butyl-N-(4-chloro-2-hydrazinocarbonyl-phenyl)-benzenesulfonamide (200 mg, 0.524 mmol) and potassium carbonate (145 mg, 1.05 mmol) in dioxane (2 mL) and the reaction was stirred for 18 h at room temperature. Isopropyl amine (0.18 mL, 2.09 mmol) and acetic acid (0.15 mL) were added and the reaction was heated at 135° C. for an additional 18 h. The resultant solution was partitioned between ethyl acetate/water and the organic phase was washed with 1N HCl, saturated sodium bicarbonate, and brine; dried over magnesium sulfate, and concentrated in vacuo. The crude product was finally purified by flash column chromatography (10-100% ethyl acetate and hexane) then preparative HPLC (10-90% gradient of MeCN-water) to afford the title compound as a white solid: MS (ES) M+H expected 448.2, found 448.1.

reactant | Cyanogen bromide | 1.05 mmol, 111 mg | N#CBr | CBrN
reactant | 4-tert-butyl-N-(4-chloro-2-hydrazinocarbonyl-phenyl)-benzenesulfonamide | 0.524 mmol, 200 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)NN | C17H20ClN3O3S
reactant | potassium carbonate | 1.05 mmol, 145 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Isopropyl amine | 2.09 mmol, 0.18 mL | C(C)(C)N | C3H9N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | acetic acid | 0.15 mL | C(C)(=O)O | C2H4O2
product | N-[2-(5-Amino-4-isopropyl-4H-[1,2,4]triazol-3-yl)-4-chloro-phenyl]-4-tert-butyl-benzenesulfonamide | NC=1N(C(=NN1)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C(C)C | C21H26ClN5O2S
